US06479490B2
A mixture of 3-methyl-4-nitrophenol (4.59 g, 0.03 mol) and 2-bromopropane (4.06 g, 0.033 mol) was refluxed with potassium carbonate (10 g) in acetone (200 mL) for 5 hours. After cooling, the reaction mixture was filtered through celite and the residue was purified by flash column (9/1 of Hexane/EtOAc) to afford 3.42 g of 4-isopropoxy-2-methyl-1-nitrobenzene (58.5%).

reactant | 3-methyl-4-nitrophenol | 0.03 mol, 4.59 g | CC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3
reactant | 2-bromopropane | 0.033 mol, 4.06 g | BrC(C)C | C3H7Br
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 4-isopropoxy-2-methyl-1-nitrobenzene | 3.42 g, 58.5% | C(C)(C)OC1=CC(=C(C=C1)[N+](=O)[O-])C | C10H13NO3
